US04204068
To a solution of diethyl 2-(3-(tetrahydropyran-2-yloxy)octylamino)nonanedioate (7.8 g) in ethanol (32 ml) was added a solution of potassium cyanate (3.0 g) in water (6 ml). The resulting suspension was stirred and cooled during the gradual addition of 2 N-hydrochloric acid (16.7 ml). The solution was allowed to stand at room temperature for 22 hours, most of the ethanol was evaporated, water was added, and the insoluble oil was extracted with ether. The ether solution was washed with water, dried over magnesium sulphate, and evaporated. The yellow oil so obtained (8.0 g) was dissolved in light petroleum (b.p. 60°-80° C.) and the solution was refluxed for 4 hours, evaporated to dryness, and the residual oil was heated on the steambath for 2 hours to give 5-(6-ethoxycarbonylhexyl)-1-(3-(tetrahydropyran-2-yloxy)octyl)hydantoin as a yellow oil (7.3 g), which was used without further purification.

reactant | diethyl 2-(3-(tetrahydropyran-2-yloxy)octylamino)nonanedioate | 7.8 g | O1C(CCCC1)OC(CCNC(C(=O)OCC)CCCCCCC(=O)OCC)CCCCC | C26H49NO6
reactant | potassium cyanate | 3.0 g | [O-]C#N.[K+]
reactant | hydrochloric acid | 16.7 ml | Cl | ClH
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | 5-(6-ethoxycarbonylhexyl)-1-(3-(tetrahydropyran-2-yloxy)octyl)hydantoin | 7.3 g | C(C)OC(=O)CCCCCCC1C(NC(N1CCC(CCCCC)OC1OCCCC1)=O)=O | C25H44N2O6
